US07820675B2
(2-Morpholin-4-ylethyl)(5-nitro-1-benzofuran-7-yl)amine
7-Iodo-5-nitrobenzofuran (1.00 g, 3.46 mmol), 4-(2-aminoethyl)morpholine (0.54 g, 4.15 mmol), NaOt-Bu (0.47 g, 0.00484 mol), Xantphos (0.20 g, 0.346 mmol) and Pd2 dba3 (80 mg, 0.0865 mol) were heated in xylene (20 mL) at 120° C. for 1.5 hours. The reaction mixture was filtered through Celite and the solvent evaporated. The residue was run through a silica plug using dichloromethane (DCM) and then a 90:9:1 mixture of DCM/MeOH/NH3 (aqueous 25%) as eluents. The product-containing fractions were concentrated to yield 0.978 g (97%) of the title compound as a dark yellow oil. HPLC purity=97%, m/z=292 (M+H)+, 1H NMR (270 MHz, CDCl3) δ ppm 2.44-2.61 (m, 4H) 2.75 (t, J=5.81 Hz, 2H) 3.31-3.43 (m, 2H) 3.69-3.82 (m, 4H) 6.85 (d, J=1.98 Hz, 1H) 7.36 (d, J=1.98 Hz, 1H) 7.70 (d, J=1.98 Hz, 1H) 7.90 (d, J=2.23 Hz, 1H).

reactant | 7-Iodo-5-nitrobenzofuran | 3.46 mmol, 1.00 g | IC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C8H4INO3
reactant | 4-(2-aminoethyl)morpholine | 4.15 mmol, 0.54 g | NCCN1CCOCC1 | C6H14N2O
reactant | NaOt-Bu | 0.00484 mol, 0.47 g | CC(C)(C)[O-].[Na+]
reactant | Xantphos | 0.346 mmol, 0.20 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | xylene | 20 mL | C=1(C(=CC=CC1)C)C | C8H10
catalyst | Pd2 dba3 | 0.0865 mol, 80 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (2-Morpholin-4-ylethyl)(5-nitro-1-benzofuran-7-yl)amine | 0.978 g, 97% | N1(CCOCC1)CCNC1=CC(=CC=2C=COC21)[N+](=O)[O-] | C14H17N3O4
